US07018988B2
(3EZ,5S)-5-[(4-benzhydryl-1-piperazinyl)carbonyl]-1-(phenoxyacetyl)-3-pyrrolidinone O-ethyloxime
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(ethoxyimino)-2-pyrrolidinecarboxylic acid, phenoxyacetyl chloride, and 1-benzhydrylpiperazine the title compound was obtained in 67% purity by LC/MS. MS(ESI+): m/z=541.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(ethoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC)C(=O)O | C12H20N2O5
reactant | phenoxyacetyl chloride | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | 1-benzhydrylpiperazine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1 | C17H20N2
product | (3EZ,5S)-5-[(4-benzhydryl-1-piperazinyl)carbonyl]-1-(phenoxyacetyl)-3-pyrrolidinone O-ethyloxime | C(C)ON=C1CN([C@@H](C1)C(=O)N1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)C(COC1=CC=CC=C1)=O | C32H36N4O4
